US09060517B2
0.33 g of 2-[3-(8-fluoro-quinolin-3-yloxy)-pyridin-2-yl]-2-methylpropionic acid ethyl ester were dissolved in 1 ml of ethanol. 2 ml of 4N aqueous sodium hydroxide solution were added thereto followed by heating to reflux for 48 hours. Subsequently, dilute hydrochloric acid was added thereto followed by extracting with ethyl acetate and distilling off the solvent of the organic layer to obtain 0.25 g of 2-[3-(8-fluoro-quinolin-3-yloxy)-pyridin-2-yl]-2-methylpropionic acid.

reactant | 2-[3-(8-fluoro-quinolin-3-yloxy)-pyridin-2-yl]-2-methylpropionic acid ethyl ester | 0.33 g | C(C)OC(C(C)(C)C1=NC=CC=C1OC=1C=NC2=C(C=CC=C2C1)F)=O | C20H19FN2O3
reactant | sodium hydroxide | 4N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 2-[3-(8-fluoro-quinolin-3-yloxy)-pyridin-2-yl]-2-methylpropionic acid | 0.25 g | FC=1C=CC=C2C=C(C=NC12)OC=1C(=NC=CC1)C(C(=O)O)(C)C | C18H15FN2O3
